************************************************************************
* auCdl Netlist:
* 
* Library Name:  LAB4
* Top Cell Name: FA
* View Name:     schematic
* Netlisted on:  Nov 29 09:13:05 2024
************************************************************************

.INCLUDE  /CMC/kits/cmosp18.6.13a_ic6/tsmc18/../Calibre/lvs/source.added
*.EQUATION
*.LDD
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: Lab3
* Cell Name:    NAND2
* View Name:    schematic
************************************************************************

.SUBCKT NAND2 A B OUT VDD VSS
*.PININFO A:I B:I OUT:O VDD:B VSS:B
MM1 net08 B VSS VSS N l=180.0n w=WnB m=1
MM0 OUT A net08 VSS N l=180.0n w=WnA m=1
MM2 OUT B VDD VDD P l=180.0n w=WpB m=1
MM3 OUT A VDD VDD P l=180.0n w=WpA m=1
.ENDS

************************************************************************
* Library Name: LAB4
* Cell Name:    FA
* View Name:    schematic
************************************************************************

.SUBCKT FA A B C Co S VDD VSS
*.PININFO A:I B:I C:I Co:O S:O VDD:B VSS:B
XI8 net23 net24 S VDD VSS / NAND2 WpA=19u WpB=19u WnA=19u WnB=19u
XI7 net14 net10 Co VDD VSS / NAND2 WpA=5u WpB=5u WnA=5u WnB=5u
XI6 net14 C net24 VDD VSS / NAND2 WpA=5u WpB=5u WnA=5u WnB=5u
XI5 net12 net14 net23 VDD VSS / NAND2 WpA=5u WpB=5u WnA=5u WnB=5u
XI4 net12 C net14 VDD VSS / NAND2 WpA=4u WpB=4u WnA=4u WnB=4u
XI3 net18 net17 net12 VDD VSS / NAND2 WpA=2u WpB=2u WnA=2u WnB=2u
XI2 net10 B net17 VDD VSS / NAND2 WpA=1u WpB=1u WnA=1u WnB=1u
XI1 A net10 net18 VDD VSS / NAND2 WpA=1u WpB=1u WnA=1u WnB=1u
XI0 A B net10 VDD VSS / NAND2 WpA=1u WpB=1u WnA=1u WnB=1u
.ENDS

